*
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents
.options savevoltages

*Netlist

* supply voltage
Vs 1 GND 5.0737445952

.include ../mat/valoresini.cir

*Capacitor
cC 6 8 1.04039410163u


.control
op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

echo  "op1_TAB"
print all
print i(hvd)
echo  "op1_END"

quit
.endc

.end
