*
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents
.options savevoltages

*Netlist

Vs 1 GND 0

.include ../mat/valoresini.cir
.include ../mat/datateo2.cir

*Capacitor
cC 6 8 1.04039410163u

.op
.ic V(6)=V6 V(8)=V8
.end

.control

.ic ilustrado

set hcopypscolor=1
set color0=white
*set color1=black
*set color2=red
*set color3=blue
*set color4=violet
*set color5=rgb:3/8/0
*set color6=rgb:4/0/0

op

echo "********************************************"
echo  "Transiant Analisys"
echo "********************************************"
tran 1e-5 20e-3

hardcopy trans.ps v(6)
echo trans_FIG


quit
.endc

.end
