*
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents
.options savevoltages

*Netlist

*fonte de tensao
Vs 1 GND 0.0 ac 1.0 sin(0 1 1k)

R1 1 2 1.02043025561k 
R2 3 2 2.0041718511k 
R3 2 5 3.090579259k 
R4 5 GND 4.00562948037k 
R5 5 6 3.03133870093k
R6 9 7 2.06427287006k
R7 7 8 1.04245638189k
Vim GND 9 0V
GIb 6 3 (2 ,5) 7.11526378475mS
HVd 5 8 Vim 8.01207369538kOhm

.op
.ic V(6)=7.040227e+00 V(8)=0.0
.end

*Capacitor
cC 6 8 1.04039410163u



.control

.ic ilustrado

set hcopypscolor=1
set color0=white
*set color1=black
*set color2=red
*set color3=blue
*set color4=violet
*set color5=rgb:3/8/0
*set color6=rgb:4/0/0

op
*alinea 4
echo "********************************************"
echo  "Transiant Analisys"
echo "********************************************"
tran 1e-5 20e-3

hardcopy trans4.ps v(6) v(1)
echo trans4_FIG
echo "op_END"

*alinea 5

op

echo "********************************************"
echo  "Frequency analysis"
echo "********************************************"

ac dec 10 0.1 1MEG

hardcopy mag.ps db(v(1)) db(v(6)) db(v(6)-v(8))
echo mag_FIG

hardcopy phs.ps vp(1)*180/pi vp(6)*180/pi
echo phs_FIG

echo "op_END"

quit
.endc

.end
