*
* Low-Pass Filter + Limiter
*

* forces current values to be saved
.options savecurrents

*numero espiras
.param N2=1/16.9

******************************************
* input voltage source
Vs 9 GND 0 sin(0 230 50)
F1 9 GND Vim {N2}

*fonte tensao dep
E2 1 4 9 GND N2

*fonte tensao imaginaria
Vim 1 2 0V

*Bridge Rectifier
Dp1 2 3 Default
Dp2 4 3 Default
Dp3 GND 2 Default
Dp4 GND 4 Default

*Envelope Detector (restantes componentes)
Rs 3 5 0.27
CL 5 GND 2000u
RL 5 GND 1.5k

D1 5 6 Default
D2 6 7 Default 
D3 7 8 Default 
D4 8 10 Default 
D5 10 11 Default
D6 11 12 Default 
D8 12 13 Default 
D9 13 14 Default 
D10 14 15 Default 
D11 15 16 Default 
D12 16 17 Default 
D13 17 18 Default 
D14 18 19 Default 
D15 19 20 Default 
D16 20 21 Default 
D17 21 22 Default 
D18 22 23 Default
D19 23 24 Default
*D19 23 GND Default
D20 24 GND Deafult
.model Default D
.op




*let someth = v(ymax)
*print someth

.end
.control

******************************************
* analise no tempo
tran 1e-5 200m
* tran 1e-5 10e-3
*plot v(5)

*calcular a media da voltagem v0
meas tran yavg AVG v(5) from=0.100 to=0.120

*calcular a voltagem pico a pico
meas tran ypp PP v(5) from=0.100 to=0.120
*print ypp

*calcular ripple max-min
*meas tran ymax MAX v(5) from=0.100 to=0.120
*meas tran ymin MIN v(5) from=0.100 to=0.120
*print ymax
*print ymin
*print ymax-ymin

*plot voltage output Envelope Detector

*plot v(5)-v(1)

*plot voltage output Voltage Regulator 

plot v(5)

******************************************
*hardcopy vospice100.ps v(7) 
* hardcopy vospice400.ps v(1) v(2)

.endc












