*
* Low-Pass Filter + Limiter
*

* forces current values to be saved
.options savecurrents

*numero espiras
.param N2=1/17.2

******************************************
* input voltage source
Vs 9 GND 0 sin(0 230 50)
F1 9 GND Vim {N2}

*fonte tensao dep
E2 1 GND 9 GND N2

*fonte tensao imaginaria
Vim 1 6 0V

*diodos
Dp1 6 3 Default
Dp2 2 3 Default
Dp3 GND 1 Default
Dp4 GND 2 Default

Rs 3 5 1.7
CL 5 GND 1100u
RL 5 GND 1.5k

D1 5 7 Default 
D2 7 8 Default 
D3 8 10 Default 
D4 10 11 Default 
D5 11 12 Default 
D6 12 13 Default 
D7 13 14 Default 
D8 14 15 Default 
D9 15 16 Default 
D10 16 17 Default 
D11 17 18 Default 
D12 18 19 Default 
D13 19 20 Default 
D14 20 21 Default 
D15 21 22 Default 
D16 22 23 Default
D17 23 GND Default

.model Default D
.op

*calcular a media da voltagem v0
.measure tran yavg AVG v(5) from=0.100 to=0.120
*.measure tran yavg AVG v(1) from=50 to=75

*calcular a voltagem pico a pico
.measure tran ypp PP v(5) from=0.100 to=0.120

.end
.control

******************************************
* analise no tempo
tran 1e-5 200m
* tran 1e-5 10e-3
plot v(5)


******************************************
*hardcopy vospice100.ps v(7) 
* hardcopy vospice400.ps v(1) v(2)

.endc
