*
* Low-Pass Filter + Limiter
*

* forces current values to be saved
.options savecurrents

*numero espiras
.param N2=1/16.8

******************************************
* input voltage source
Vs 9 GND 0 sin(0 230 50)
F1 9 GND Vim {N2}

*fonte tensao dep
E2 1 4 9 GND N2

*fonte tensao imaginaria
Vim 1 2 0V

*Bridge Rectifier
Dp1 2 3 Default
Dp2 4 3 Default
Dp3 GND 2 Default
Dp4 GND 4 Default

*Envelope Detector (restantes componentes)
Rs 3 5 0.42
CL 5 GND 4m
RL 5 GND 1.5k

*Rs<<<<<RL
*maior Rs -> menor V0
*maior CL -> menor delta V0


*Voltage Regulator

D1 5 6 Default
D2 6 GND Default
.model Default D
.op




*let someth = v(ymax)
*print someth

.end
.control

******************************************
* analise no tempo
tran 1e-5 200m
* tran 1e-5 10e-3
*plot v(5)

*calcular a media da voltagem v0
meas tran yavg AVG v(5) from=0.100 to=0.120

*calcular a voltagem pico a pico
meas tran ypp PP v(5) from=0.100 to=0.120
print ypp

*calcular ripple max-min
*meas tran ymax MAX v(5) from=0.100 to=0.120
*meas tran ymin MIN v(5) from=0.100 to=0.120
*print ymax
*print ymin
*print ymax-ymin


plot v(6)



******************************************
*hardcopy vospice100.ps v(7) 
* hardcopy vospice400.ps v(1) v(2)

.endc












