*
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents
.options savevoltages

*Netlist
* Fonte tensao independente VA
VA 1 4 5.0737445952V

*Fonte de corrente independente Id
Id 8 6 1.04039410163mA

R1 1 2 1.02043025561k 
R2 3 2 2.0041718511k 
R3 2 GND 3.090579259k 
R4 4 GND 4.00562948037k 
R5 6 GND 3.03133870093k
R6 9 7 2.06427287006k
R7 7 8 1.04245638189k

*Fonte de tensao imaginaria de 0V
Vim 9 4 0V

*Ib - Voltage controlled current source
GIb 6 3 (2 GND) 7.11526378475mS

*Vc - Current controllet voltage source
HVc 8 GND Vim 8.01207369538kOhm


.control
op

echo "********************************************"
echo  "Operating point"
echo "********************************************"


echo  "op_TAB"
print i(hvc)
print i(va)
print all
echo  "op_END"



quit
.endc

.end
